US07329700B2
Palladium nitrate was dissolved in ethanol and dodecanethiol was added to the solution, while stirring. The yellow precipitate of palladium dodecanethiolate obtained was separated by centrifugation, washed several times with ethanol or acetone and finally dissolved in hot (50° C.) chloroform and re-precipitated by adding ethanol. The product was separated by centrifugation and then left to dry in the air. A solution of palladium dodecanethiolate in chloroform was then added to a solution of polystyrene in chloroform and the system, after thorough homogenization, was poured onto a glass surface and left to dry. In this way, transparent films of a deep yellow colour were produced, and these were then submitted to heat treatment at 340° C. by means of a sand bath. A thermogravimetric analysis (TGA) was carried out on the palladium dodecanethiolate, as shown in FIG. 1. The thermogram reveals two stages in degradation: the first is determined by the thermal decomposition of the palladium mercaptide which leads to the formation of the corresponding sulphide, and the second is further decomposition of the sulphide, from which the metal is obtained. The microstructure of the inclusions of Pd in polystyrene was visualized by examination by transmission electron microscopy, shown in FIG. 2.

reactant | Palladium nitrate | [N+](=O)([O-])[O-].[Pd+2].[N+](=O)([O-])[O-]
reactant | dodecanethiol | C(CCCCCCCCCCC)S | C12H26S
solvent | ethanol | C(C)O | C2H6O
product | palladium dodecanethiolate | C(CCCCCCCCCCC)[S-].[Pd+2].C(CCCCCCCCCCC)[S-] | InChI=1S/2C12H26S.Pd/c2*1-2-3-4-5-6-7-8-9-10-11-12-13;/h2*13H,2-12H2,1H3;/q;;+2/p-2
